US07018988B2
(2EZ)-[5-(1H-benzimidazol-2-yl)-1-([1,1′-biphenyl]-4-ylcarbonyl)-3-pyrrolidinylidene]ethanenitrile
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(cyanomethylene)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]4-carbonyl chloride, and 1,2-benzenediamine the title compound was obtained in 70% purity by LC/MS. MS(ESI+): m/z=405.2.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(cyanomethylene)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=CC#N)C(=O)O | C12H16N2O4
reactant | [1,1′-biphenyl]4-carbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
reactant | 1,2-benzenediamine | C=1(C(=CC=CC1)N)N | C6H8N2
product | (2EZ)-[5-(1H-benzimidazol-2-yl)-1-([1,1′-biphenyl]-4-ylcarbonyl)-3-pyrrolidinylidene]ethanenitrile | N1C(=NC2=C1C=CC=C2)C2CC(CN2C(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=CC#N | C26H20N4O
